US09126950B2
Into a 50 mL 3-neck RBF equipped with a magnetic stirrer, reflux condenser, and thermo pocket were sequentially charged 4-nitro phenol (1.00 g), K2CO3 (1.98 g) and DMF (7 mL). The reaction mixture was heated to 70° C. for 15 minutes. Ethyl bromoacetate (1.44 g) was added at 70° C. and the reaction mixture was stirred at the same temperature for 30 minutes. The reaction was monitored on TLC using CHCl3: methanol (9.5:0.5) as mobile phase. After completion of the reaction, the mixture was cooled to room temperature and poured into cold water. Solid precipitate was filtered and washed with water. The solid was dried under reduced pressure at 45° C. for 1 hr to give 1.50 g of ethyl 2-(4-nitrophenoxy)acetate. The obtained solid was taken for the next step without further purification.

reactant | 4-nitro phenol | 1.00 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | K2CO3 | 1.98 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
reactant | Ethyl bromoacetate | 1.44 g | BrCC(=O)OCC | C4H7BrO2
solvent | water | O | H2O
solvent | CHCl3 methanol | C(Cl)(Cl)Cl.CO
product | ethyl 2-(4-nitrophenoxy)acetate | 1.50 g | [N+](=O)([O-])C1=CC=C(OCC(=O)OCC)C=C1 | C10H11NO5
